US06284785B1
(RS)-1-(3-Fluoro-benzenesulfonyl)-2-(4-fluoro-phenyl)-pyrrolidine
The title compound, off-white solid, m.p. 101° C. and MS: m/e=323 (M+) was prepared in accordance with the general method of example 1e from (RS)-2-(4-fluoro-phenyl)-pyrrolidine and 3-fluoro-benzenesulfonyl chloride.

reactant | (RS)-2-(4-fluoro-phenyl)-pyrrolidine | FC1=CC=C(C=C1)C1NCCC1 | C10H12FN
reactant | 3-fluoro-benzenesulfonyl chloride | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
product | (RS)-1-(3-Fluoro-benzenesulfonyl)-2-(4-fluoro-phenyl)-pyrrolidine | FC=1C=C(C=CC1)S(=O)(=O)N1C(CCC1)C1=CC=C(C=C1)F | C16H15F2NO2S
